US05665718
2.32 g (15 mmol) of diallylglycine were dissolved in 15 ml of N,N-dimethylformamide and treated with 2.75 g (17 mmol) of 1,1'-carbonyldiimidazole. After stirring at 50° C. for 20 minutes 3.01 (10 mmol) of (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were added and the mixture was stirred at 90° for 16 hours and at 120° for 2 hours. The solution was concentrated and the residue was purified by chromatography on 320 g of silica gel while eluting with ethyl acetate. There were obtained 1.54 g (37%) of (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one, which was converted into the hydrochloride of m.p. 100°-105°.

reactant | diallylglycine | 15 mmol, 2.32 g | C(C=C)N(CC(=O)O)CC=C | C8H13NO2
reactant | 1,1'-carbonyldiimidazole | 17 mmol, 2.75 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(N)=NO)CC3)=O)C1 | C14H12FN5O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-3-yl)-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.54 g, 37% | C(C=C)N(CC=C)CC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3)F)=O)CC1 | C22H21FN6O2
